data/rdb19/train.csv
rxn,smiles,ea
4364,[C:16]([C:17]([C:18]([H:19])[H:20])([N:21]([C:22](=[O:23])[H:29])[H:28])[H:27])([H:24])([H:25])[H:26].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:16]([C:17](=[C:18]([H:19])[H:20])[N:21]([C:22](=[O:23])[H:29])[H:28])([H:24])([H:25])[H:26].[C:1]([H:8])([H:9])([H:10])[H:27].[O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15],66.27233131957473
1385,[C:10]([C:11]([C:12]([C:13]([H:23])([H:24])[H:25])([C:14]([H:15])[H:16])[H:22])([H:20])[H:21])([H:17])([H:18])[H:19].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[O:1]([C:2]([O:3][C:14]([C:12]([C:11]([C:10]([H:17])([H:18])[H:19])([H:20])[H:21])([C:13]([H:23])([H:24])[H:25])[H:22])([H:15])[H:16])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6],27.055868511321023
4057,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20]([C:21](=[C:22]([H:29])[H:30])[C:23](=[O:24])[O:25][H:31])([H:26])([H:27])[H:28]>>[C:1]([C:2]([C:3]1([C:4]([H:14])([H:15])[H:16])[C:23]([C:21]([C:20]([H:26])([H:27])[H:28])=[C:22]([H:29])[H:30])([O:25][H:31])[O:24]1)([H:12])[H:13])([H:9])([H:10])[H:11].[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19],77.9405422123964
3552,[C:17](=[C:18]([N:19]([C:20](=[O:21])[H:26])[H:25])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:17](=[C:18]([N:19][C:20](=[O:21])[H:26])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[H:25])([H:9])[H:10])([H:6])([H:7])[H:8],24.33008295798209
2146,[N:1]([C:2]([O:3])([C:4](=[C:5]([H:9])[H:10])[H:8])[C:13]([C:12]([C:11]([H:19])([H:20])[H:21])([H:22])[H:23])([H:14])[O:15][C:16](=[O:17])[C:18]([H:24])([H:25])[H:26])([H:6])[H:7]>>[C:11]([C:12]([H:22])[H:23])([H:19])([H:20])[H:21].[N:1]([C:2]1([C:4](=[C:5]([H:9])[H:10])[H:8])[O:3][C:13]1([H:14])[O:15][C:16](=[O:17])[C:18]([H:24])([H:25])[H:26])([H:6])[H:7],45.20227549679112
5119,[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:28])[H:29])([c:30]1[c:31]([H:40])[c:32]([H:41])[c:33]([H:42])[c:34]([H:43])[c:35]1[H:44])[H:39])([H:36])([H:37])[H:38]>>[C:1]([H:11])([H:12])[H:13].[C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])([H:15])[C:27]([C:26]([C:25]([H:36])([H:37])[H:38])([c:30]1[c:31]([H:40])[c:32]([H:41])[c:33]([H:42])[c:34]([H:43])[c:35]1[H:44])[H:39])([H:28])[H:29],66.675886231591
4219,[C:16]([C:17]([C:18]([H:28])([H:29])[H:30])([C:19]([H:20])[H:21])[C:22](=[O:23])[O:24][H:31])([H:25])([H:26])[H:27].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6][H:11])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10].[H:12][C:19]([C:17]([C:16]([H:25])([H:26])[H:27])([C:18]([H:28])([H:29])[H:30])[C:22](=[O:23])[O:24][H:31])([H:20])[H:21],25.195128357678183
3836,[C:13]([C:14]([C:15]([C:16]([H:26])([H:27])[H:28])[C:17](=[O:18])[O:19][C:20]([H:29])([H:30])[H:31])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([H:8])([H:9])[C:15]([C:14]([C:13]([H:21])([H:22])[H:23])([H:24])[H:25])([C:16]([H:26])([H:27])[H:28])[C:17](=[O:18])[O:19][C:20]([H:29])([H:30])[H:31])([H:5])([H:6])[H:7].[C:3](=[C:4]([H:11])[H:12])[H:10],70.6307896632934
1796,[C:15]([C:16](=[C:17]([H:24])[H:25])[C:18](=[O:19])[O:20][H:26])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:15]([C:16](=[C:17][H:25])[C:18](=[O:19])[O:20][H:26])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:24])([H:11])[H:12])([H:8])([H:9])[H:10],30.80867157701869
1195,[C:14]([C:15](=[C:16]([H:23])[H:24])[C:17](=[O:18])[O:19][H:25])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[O:7][H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[O:7][H:13])[C:16]([C:15]([C:14]([H:20])([H:21])[H:22])[C:17](=[O:18])[O:19][H:25])([H:23])[H:24])([H:11])[H:12])([H:8])([H:9])[H:10],13.573995174781883
2003,[N:1]([C:2]([O:3])([C:4](=[C:5]([H:9])[H:10])[H:8])[C:13]([C:12]([C:11]([H:16])([H:17])[H:18])([H:19])[H:20])([C:14]([H:21])([H:22])[H:23])[C:15]([H:24])([H:25])[H:26])([H:6])[H:7]>>[C:11]([C:12]([H:19])[H:20])([H:16])([H:17])[H:18].[N:1]([C:2]1([C:4](=[C:5]([H:9])[H:10])[H:8])[O:3][C:13]1([C:14]([H:21])([H:22])[H:23])[C:15]([H:24])([H:25])[H:26])([H:6])[H:7],55.39660519763129
